US05959107
5-Isoquinolinethiol 250 mg (1.5 mmol) was dissolved in DMF 10 ml, 5-fluoro-2-methyl-6-nitrobenzothiazole 330 mg (1.5 mmol) and potassium carbonate 650 mg (4.7 mmol) were added, and the mixture was stirred for 1 hour at room temperature. The reaction mixture was concentrated under reduced pressure, the residue was crystallized from ether, and 5-(5-isoquinolylsulfanyl)-2-methyl-6-nitrobenzo[d][1,3]thiazole 180 mg (33.1%) was obtained.

reactant | 5-Isoquinolinethiol | 1.5 mmol, 250 mg | C1=NC=CC=2C(=CC=CC12)S | C9H7NS
reactant | 5-fluoro-2-methyl-6-nitrobenzothiazole | 1.5 mmol, 330 mg | FC=1C(=CC2=C(N=C(S2)C)C1)[N+](=O)[O-] | C8H5FN2O2S
reactant | potassium carbonate | 4.7 mmol, 650 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 5-(5-isoquinolylsulfanyl)-2-methyl-6-nitrobenzo[d][1,3]thiazole | 180 mg, 33.1% | C1=NC=CC2=C(C=CC=C12)SC=1C(=CC2=C(N=C(S2)C)C1)[N+](=O)[O-] | C17H11N3O2S2
